US04680287
N-Dodecyl-N-(2-acetamido-2-deoxy-D-glucopyranosyl)dodecanoamide
Preparation in analogy to Example 54 from N-acetylglucosamine, dodecylamine and dodecanoyl chloride.

reactant | N-acetylglucosamine | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H15NO6
reactant | dodecylamine | C(CCCCCCCCCCC)N | C12H27N
reactant | dodecanoyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | N-Dodecyl-N-(2-acetamido-2-deoxy-D-glucopyranosyl)dodecanoamide | C(CCCCCCCCCCC)N(C(CCCCCCCCCCC)=O)C1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)NC(C)=O | C32H62N2O6
